US09238640B2
To a solution of ethyl 4-(4-aminopiperidin-1-yl)benzoate (1.65 g, 6.65 mmol) in CH2Cl2 (200 mL) was added Et3N (1.35 g, 13.3 mmol), followed by acetyl chloride (0.573 g, 7.3 mmol). The reaction mixture was stirred at room temperature for 5 minutes, washed with brine (300 mL), dried over anhydrous Na2SO4, filtered, and concentrated, to afford ethyl 4-(4-acetamidopiperidin-1-yl)benzoate as a white solid (1.9 g, 100%).

reactant | ethyl 4-(4-aminopiperidin-1-yl)benzoate | 6.65 mmol, 1.65 g | NC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C14H20N2O2
reactant | Et3N | 13.3 mmol, 1.35 g | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 7.3 mmol, 0.573 g | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-(4-acetamidopiperidin-1-yl)benzoate | 1.9 g, 100% | C(C)(=O)NC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C16H22N2O3
